US08207147B2
trans-4-(3-Pyridin-4-yl-[1,2,4]oxadiazol-5-yl)cyclohexanecarboxylic acid propyl ester
Thionyl chloride (11.5 μl, 0.1 mmol) was added to a solution of trans-4-(3-pyridin-4-yl-[1,2,4]oxadiazol-5-yl)cyclohexanecarboxylic acid (Preparation 4, 22 mg, 0.08 mmol) in 1-propanol (2 ml). The mixture was heated under reflux for 2 h, cooled and the solvent removed in vacuo. The residue was dissolved in EtOAc (10 ml), washed with saturated aqueous NaHCO3 (3 ml) and brine (5 ml), then dried (MgSO4). Removal of the solvent afforded the title compound. RT=3.67 min, m/z (ES+)=316.3 [M+H]+.

reactant | Thionyl chloride | 0.1 mmol, 11.5 μl | S(=O)(Cl)Cl | Cl2OS
reactant | trans-4-(3-pyridin-4-yl-[1,2,4]oxadiazol-5-yl)cyclohexanecarboxylic acid | 0.08 mmol, 22 mg | N1=CC=C(C=C1)C1=NOC(=N1)[C@@H]1CC[C@H](CC1)C(=O)O | C14H15N3O3
reactant | 1-propanol | 2 ml | C(CC)O | C3H8O
product | trans-4-(3-Pyridin-4-yl-[1,2,4]oxadiazol-5-yl)cyclohexanecarboxylic acid propyl ester | C(CC)OC(=O)[C@@H]1CC[C@H](CC1)C1=NC(=NO1)C1=CC=NC=C1 | C17H21N3O3
